US08686048B2
Oxalyl chloride (0.86 ml, 9.8 mml) and two drops of DMF were added to a solution of 2-(methoxycarbonyl)benzoic acid (590 mg, 3.27 mmol) in dichloromethane (10 ml) and cooled to 0° C. and stirred at RT for 30 min. After 30 min, the solvent was removed to obtain methyl 2-(chloroformyl)benzoate (quantitative). A solution of this intermediate (401 mg, 2.03 mmol) in dichloromethane was added to a solution of intermediate 10 (540 mg, 2.03 mmol) and pyridine (0.19 ml, 2.43 mmol) in dichloromethane (5 ml) at 0° C. and stirred at RT for 30 min. Work-up (CH2Cl2/H2O) and purification gave methyl 2-(3-chloro-3′-ethoxy-5-fluorobiphenyl-4-ylcarbamoyl)benzoate (250 mg) as an off-white solid. Lithium borohydride (20 mg, 0.94 mmol) was added to a solution of this product (200 mg, 0.47 mmol) in THF (5 ml) at 0° C. and the mixture stirred at RT for 2 hrs. Work-up (EtOAc/aq. 10% NH4Cl then H2O) and purification afforded the title compound (30 mg) as a white solid. M.P.: 139.2-141.5° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.22 (s, 1H), 7.76 (s, 1H), 7.73-7.60 (m, 3H), 7.54 (t, J 6.7, 1H), 7.43-7.36 (m, 2H), 7.33-7.26 (m, 2H), 6.97 (dd, J 1.8, 8.1, 1H), 5.32 (t, J 5.6, 1H), 4.72 (d, J 5.6, 2H), 4.12 (q, J 7, 2H), 1.35 (t, J 7, 3H).

reactant | Oxalyl chloride | 0.86 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(methoxycarbonyl)benzoic acid | 3.27 mmol, 590 mg | COC(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O4
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 2-(chloroformyl)benzoate | ClC(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7ClO3
